US07186749B2
Step 3: {[6-(1-Methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetonitrile.
In a similar manner as described in step 1 of Example 4, the title compound was prepared from 6-(1-methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthol (0.45 g, 1.5 mmol), prepared in the previous step, bromoacetonitrile (0.216 g, 1.8 mmol) and cesium carbonate (2.45 g, 7.52 mmol) with the exception that the reaction was complete after 100 minutes at ambient temperature. The crude material was dissolved in methylene chloride and filtered through silica gel (45 g, 200–300 mesh). The solvent was removed under reduced pressure to give {[6-(1-methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetonitrile as an off-white solid (0.494 g, 97%), mp 191.5–192.5° C. Elemental Analysis for C23H18N2O Calc'd: C, 81.63; H, 5.36; N, 8.28. Found: C, 81.06; H, 5.14; N, 8.04.

reactant | 6-(1-methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthol | 1.5 mmol, 0.45 g | CN1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)O | C21H17NO
reactant | bromoacetonitrile | 1.8 mmol, 0.216 g | BrCC#N | C2H2BrN
reactant | cesium carbonate | 7.52 mmol, 2.45 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | {[6-(1-methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetonitrile | 0.494 g, 97% | CN1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OCC#N | C23H18N2O
